US08039463B2
LAH (96 mg, 2.5 mmol) was added portionwise to a cold (at 0° C.) solution of N-biphenyl-4-yl-formamide (100 mg, 0.5 mmol) in THF (2 mL) and the stirring was continued at the same temperature for 30 minutes. After completion of the reaction, the reaction mixture was quenched with 3% aq NaOH solution, the precipitate obtained was filtered, the filtrate was collected was concentrated under reduced pressure to get a residue. The residue was diluted with ethyl acetate, the organic layer was washed with brine solution and dried over sodium sulfate. The organic layer was concentrated under reduced pressure to afford 85 mg (91.39% Yield) of biphenyl-4-yl-methyl-amine.

reactant | LAH | 2.5 mmol, 96 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | N-biphenyl-4-yl-formamide | 0.5 mmol, 100 mg | C1(=CC=C(C=C1)NC=O)C1=CC=CC=C1 | C13H11NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | biphenyl-4-yl-methyl-amine | 85 mg, 91.39% Yield | C1(=CC=C(C=C1)NC)C1=CC=CC=C1 | C13H13N
